US04436748
To a mixture of 22.0 g of ethyl[ (6,7-dichloro-2,3-dimethylbenzo[b]thien-5-yl)oxy]acetate and 600 ml of 95% ethanol is added 600 ml of 20% sodium hydroxide solution and the mixture is refluxed for 2 hrs. Most of the solvent is removed in vacuo to give a white slurry to which is added 600 ml of a 6 N hydrochloric acid. After stirring for about 3 hrs, the mixture is filtered. The solid is taken up in 1:1-ethyl acetate-ethyl ether. The organic layers are washed, dried and filtered and the solvent is removed to give a solid. Recrystallization from acetone-hexane gives 17.1 g of [(6,7-dichloro-2,3-dimethylbenzo[b]thien-5-yl)oxy]acetic acid, mp 218°-219°.

reactant | ethyl[ (6,7-dichloro-2,3-dimethylbenzo[b]thien-5-yl)oxy]acetate | 22.0 g | C(C)OC(COC1=CC2=C(SC(=C2C)C)C(=C1Cl)Cl)=O | C14H14Cl2O3S
reactant | sodium hydroxide | 600 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | [(6,7-dichloro-2,3-dimethylbenzo[b]thien-5-yl)oxy]acetic acid | 17.1 g | ClC=1C(=CC2=C(SC(=C2C)C)C1Cl)OCC(=O)O | C12H10Cl2O3S
